US07781428B2
(±)-(3SR,3aRS)-isopropyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
The title compound was prepared from (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 and propan-2-ol according to Method E (yellow solid, 145 mg, 0.313 mmol, 66% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.14 (d, J=8.1 Hz, 1H), 7.89-7.94 (m, 2H), 7.46 (d, J=8.9 Hz, 1H), 7.30 (d, J=2.1 Hz, 1H), 7.03 (dd, J=8.9, 2.1 Hz, 1H), 5.22-5.32 (m, 1H), 4.63 (dd, J=9.7, 5.4 Hz, 1H), 3.44-3.54 (m, 1H), 3.08-3.16 (m, 1H), 2.86-2.98 (m, 1, 2.25-2.36 (m, 1H), 2.07-2.19 (m, 1H), 1.88-2.03 (m, 1H), 1.73-1.83 (m, 1H), 1.42-1.66 (m, 5H), 1.39 (d, J=6.4 Hz, 6H), 1.20-1.37 (m, 2H). ES-HRMS m/z calc. for C27H29ClN3O2 (M+H) 462.1943, found 462.1897.

reactant | (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | propan-2-ol | CC(C)O | C3H8O
product | (±)-(3SR,3aRS)-isopropyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | 66% yield | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OC(C)C | C27H28ClN3O2
